*****************************************************************
* NXP PSMN2R0-30YLE
*
* Polarity N-Channel
* Ratings 30V/1.950000E-003OHMS/100A
*
* Date Created Thu Sep 27 03:58:11 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN2R0-30YLE DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.3e-10
RLS2 SOURCE 8 0.578053048260522
RLS1 8 7 0.00022

RDS 7 4 150000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000643734048237925 TC=0.00735040720384894,4.72118772854965E-06
RBD 9 4 0.000389016125686091 TC=0.00735040720384894,4.72118772854965E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 4.24397401119497e-09
RG 1 2 0.567473761817533

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	2961
+ -16	2958
+ -10	2953
+ -5	2927
+ -4	2903
+ -3	2839
+ -2	3340
+ -1	3428
+ -0.5	2577
+ -0.2	2138
+ -0.1	2013
+ 0	1847.5
+ 0.1	1655
+ 0.2	1531
+ 0.5	1224
+ 1	978
+ 2	795
+ 3	704
+ 4	648
+ 5	610
+ 6	581
+ 8	536
+ 10	507
+ 12	487
+ 15	463
+ 20	437



.MODEL MINT NMOS(Vto=2.15586438775716 Kp=1.560530e+002 Nfs=450000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=1.01820099465278e-12
+ N=1 M=0.63 VJ=0.72 Fc=0.5 Cjo=3.607e-09 Tt=4.25574e-08)

.ENDS

